US07504411B2
To a suspension of (S)-2-benzylamino-1-(4-chlorophenyl)ethanol (15.76 g, 60.21 mmol) and triethylamine (33.6 ml, 241 mmol) in dichloromethane (300 ml) was added a solution of thionyl chloride (4.83 ml, 66.2 mmol) in dichloromethane (20 ml) at −78° C. over 20 min. The resulting suspension was stirred at −78° C. for 20 min and at 0° C. for additional 20 min. The reaction mixture was partitioned between ether and water, and the organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: 10-20% ethyl acetate-hexane) to afford (2RS,5S)-3-benzyl-5-(4-chlorophenyl)-1,2,3-oxathiazolidine 2-oxide (16.2 g 87.4%) as a pale yellow solid.

reactant | (S)-2-benzylamino-1-(4-chlorophenyl)ethanol | 60.21 mmol, 15.76 g | C(C1=CC=CC=C1)NC[C@@H](O)C1=CC=C(C=C1)Cl | C15H16ClNO
reactant | triethylamine | 241 mmol, 33.6 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 66.2 mmol, 4.83 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2RS,5S)-3-benzyl-5-(4-chlorophenyl)-1,2,3-oxathiazolidine 2-oxide | 16.2 g, 87.4% | C(C1=CC=CC=C1)N1S(O[C@H](C1)C1=CC=C(C=C1)Cl)=O | C15H14ClNO2S
